US08445509B2
Production of ethyl 1-methyl-2-(2-methylphenyl)-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate
In the same manner as in Reference Example 64 and using ethyl 2-(2-methylphenyl)-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate (3.1 g, 12 mmol) and methyl trifluoromethanesulfonate (2.5 mL) as starting materials, the title compound (2.1 g, 66%) was obtained as a pale-yellow solid.

reactant | ethyl 2-(2-methylphenyl)-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate | 12 mmol, 3.1 g | CC1=C(C=CC=C1)N1NC=C(C1=O)C(=O)OCC | C13H14N2O3
reactant | methyl trifluoromethanesulfonate | 2.5 mL | FC(S(=O)(=O)OC)(F)F | C2H3F3O3S
product | ethyl 1-methyl-2-(2-methylphenyl)-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate | 2.1 g, 66% | CN1N(C(C(=C1)C(=O)OCC)=O)C1=C(C=CC=C1)C | C14H16N2O3
